US08252798B2
Heat a solution of tert-butyl 3-(6-chloro-8-(2-chlorophenyl)-2-methyl-9H-purin-9-yl)azetidine-1-carboxylate (0.012 mol, 5.5 g), N-ethyl piperazine (0.013 mol, 1.59 g, 1.1 equiv.), and triethylamine (0.013 mol, 1.41 g, 1.1 equiv.) in ethanol (25.0 mL) at 90° C. for 16 hours. Concentrate the reaction mixture under reduced pressure. Dissolve the residue in dry dichloromethane. Wash with saturated sodium bicarbonate solution, water, and brine. Dry the organic layer over anhydrous sodium sulfate, filter, and concentrate under reduced pressure to give the residue. Purify the residue by silica gel chromatography eluting with dichloromethane:methanol 98:2 to give tert-butyl 3-(8-(2-chlorophenyl)-6-(4-ethylpiperazin-1-yl)-2-methyl-9H-purin-9-yl)azetidine-1-carboxylate (3.0 g). MS (m/z): 512.31 (M+1).

reactant | tert-butyl 3-(6-chloro-8-(2-chlorophenyl)-2-methyl-9H-purin-9-yl)azetidine-1-carboxylate | 0.012 mol, 5.5 g | ClC1=C2N=C(N(C2=NC(=N1)C)C1CN(C1)C(=O)OC(C)(C)C)C1=C(C=CC=C1)Cl | C20H21Cl2N5O2
reactant | N-ethyl piperazine | 0.013 mol, 1.59 g, 1.1 equiv. | C(C)N1CCNCC1 | C6H14N2
reactant | triethylamine | 0.013 mol, 1.41 g, 1.1 equiv. | C(C)N(CC)CC | C6H15N
solvent | ethanol | 25.0 mL | C(C)O | C2H6O
product | tert-butyl 3-(8-(2-chlorophenyl)-6-(4-ethylpiperazin-1-yl)-2-methyl-9H-purin-9-yl)azetidine-1-carboxylate | 3.0 g | ClC1=C(C=CC=C1)C=1N(C2=NC(=NC(=C2N1)N1CCN(CC1)CC)C)C1CN(C1)C(=O)OC(C)(C)C | C26H34ClN7O2
